US05134148
3,5-Dibromopyridine was reacted with one equivalent of benzyl alcohol to give 3-benzyloxy-5-bromopyridine (56%) using the procedure described in the first paragraph of Note c. immediately above. That product was reacted with n-butyl-lithium using the procedure described in the second paragraph of Note c. except that the reaction was carried out at -110° C. The organometallic reagent so formed was reacted with tetrahydropyran-4-one using the procedure described in that Note; the product was methylated and that product was hydrogenolysed using the procedures also described in Note c. immediately above. There was thus obtained 4-(5-hydroxypyrid-3-yl)-4-methoxytetrahydropyran in 47% yield from 3-benzyloxy-5-bromopyridine.

reactant | 3,5-Dibromopyridine | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | benzyl alcohol | one equivalent | C(C1=CC=CC=C1)O | C7H8O
product | 3-benzyloxy-5-bromopyridine | 56% | C(C1=CC=CC=C1)OC=1C=NC=C(C1)Br | C12H10BrNO
